US04034092
A solution of 3.15 g (0.017 mol) of 2-carbethoxymethyl-1,3,4-oxadiazole-5-thiol in 25 ml of water and 25 ml of ethanol was stirred for 5 hours while maintaining the pH at 10-11 by addition of 10% aqueous sodium hydroxide solution. The mixture was neutralized to pH 7.0 then evaporated to dryness. The residue was dissolved in 15 ml of water, 50 ml of ethyl acetate was added and the solution was acidified to pH 1.5 with 3N hydrochloric acid. The layers were separated and the aqueous phase was extracted twice with ethyl acetate. The combined extracts were dried (Na2SO4) and the solvent was evaporated to give a residue which was recrystallized from ether-cyclohexane to give 2-carboxymethyl-1,3,4-oxadiazole-5-thiol, m.p. 167° -169° (dec.)

reactant | 2-carbethoxymethyl-1,3,4-oxadiazole-5-thiol | 0.017 mol, 3.15 g | C(=O)(OCC)CC=1OC(=NN1)S | C6H8N2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-carboxymethyl-1,3,4-oxadiazole-5-thiol | C(=O)(O)CC=1OC(=NN1)S | C4H4N2O3S
